US05955005
0.19 % C.I. Disperse Yellow 86;
0.185 % C.I. Disperse Yellow 42; 0.122 % C.I. Disperse Red 91; 0.05 % C.I. Disperse Blue 56; 0.44 % C.I. Disperse Blue 77; and 3.5 % of the dispersion of the dispersion of Example 11 above.

reactant | C.I. Disperse Yellow 42 | C1=CC=C(C=C1)NC2=C(C=C(C=C2)S(=O)(=O)NC3=CC=CC=C3)[N+](=O)[O-] | C18H15N3O4S
reactant | C.I. Disperse Blue 56 | C1=CC(=C2C(=C1N)C(=O)C3=C(C2=O)C(=C(C=C3O)Br)N)O | C14H9BrN2O4
reactant | C.I. Disperse Blue 77 | C1=CC=C(C=C1)NC2=C3C(=C(C=C2)[OH2+])C(=O)C4=C(C=CC(=C4C3=O)[N+](=O)[O-])[O-] | C20H12N2O6
product | C.I. Disperse Yellow 86 | CCOC1=CC=C(C=C1)NC2=C(C=C(C=C2)S(=O)(=O)N(C)C)[N+](=O)[O-] | C16H19N3O5S
